US07166583B2
[3-(5- Chloro-1H-8-thia-1,3-diaza-dibenzo[e,h]azulene-2-ylmethoxy)-propyl]-dimethyl-amine (I; X=S, Y=5-Cl, Z=H, m=1, R1=(CH3)2N(CH2)3OCH2, R2=H)
By a reaction of alcohol 34 (0.34 mmole) and 3-dimethylaminopropylchloride-hydrochloride (4.8 mmole), {3-[5-chloro-1-(2-trimethylsilyl-ethoxymethyl)-1H-8-thia-1,3-diaza-dibenzo[e,h]azulene-2-ylmethoxy]-propyl}-dimethyl-amine in the form of an oily product was obtained;

reactant | 3-dimethylaminopropylchloride-hydrochloride | 4.8 mmole | Cl.CN(CCCCl)C
reactant | {3-[5-chloro-1-(2-trimethylsilyl-ethoxymethyl)-1H-8-thia-1,3-diaza-dibenzo[e,h]azulene-2-ylmethoxy]-propyl}-dimethyl-amine | ClC1=CC2=C(SC3=C(C=4N(C(=NC24)COCCCN(C)C)COCC[Si](C)(C)C)C=CC=C3)C=C1 | C27H36ClN3O2SSi
product | [3-(5- Chloro-1H-8-thia-1,3-diaza-dibenzo[e,h]azulene-2-ylmethoxy)-propyl]-dimethyl-amine | ClC1=CC2=C(SC3=C(C=4NC(=NC24)COCCCN(C)C)C=CC=C3)C=C1 | C21H22ClN3OS
